US04241071
2.0 g of 1-methyl-4-(α-phenyl-2-tolyl)-4-piperidinol, Example 1, is treated with 10 g of cyclobutanecarbonyl chloride with stirring and cooling. The reaction mixture is stirred for 48 hours at ambient temperature, diluted with 15 ml of ether and then stirred for 2 hours. The resulting precipitate is collected by suction filtration, the filter cake washed well with ether and dried in vacuo over sodium hydroxide pellets. The filter cake is recrystallized twice from an acetone-ether mixture to give colorless crystals, mp 194.5°-195° C. of 4-cyclobutylcarbonyloxy-1-methyl-4-(α-phenyl-2-tolyl)piperidine hydrochloride.

reactant | 1-methyl-4-(α-phenyl-2-tolyl)-4-piperidinol | 2.0 g | CN1CCC(CC1)(O)C1=C(C=CC=C1)CC1=CC=CC=C1 | C19H23NO
reactant | cyclobutanecarbonyl chloride | 10 g | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | ether | 15 ml | CCOCC | C4H10O
product | 4-cyclobutylcarbonyloxy-1-methyl-4-(α-phenyl-2-tolyl)piperidine hydrochloride | Cl.C1(CCC1)C(=O)OC1(CCN(CC1)C)C1=C(C=CC=C1)CC1=CC=CC=C1 | InChI=1S/C24H29NO2.ClH/c1-25-16-14-24(15-17-25,27-23(26)20-11-7-12-20)22-13-6-5-10-21(22)18-19-8-3-2-4-9-19;/h2-6,8-10,13,20H,7,11-12,14-18H2,1H3;1H
